US06171866B2
2.2.4. 4-Nitro-2,5-diethoxyphenethylamine (N6)
5.23 g (25 mmol) 2,5-diethoxyphenethylamine N5 was mixed with 10 ml water and cooled to 0° C. while 3 ml conc. HCl was added slowly. The resultant milky emulsion was to cooled 0 to 5° C. and 13.5 ml conc. HNO3 was added slowly and carefully within about 2 hours. The temperature was kept below 10° C. The mixture solidified when about half of the HNO3 had been added. 50 ml icy water was added to render the mixture stirrable. Then the rest of the HNO3 was added. The mixture was warmed up to room temperature and stirred at room temperature for 3 hours, basified to pH>12 with 40% NaOH and then extracted with 2×100 ml CHCl3. The CHCl3 extraction was back washed with 3×100 ml 0.5 M NaOH and dried over 10 g K2CO3. The solvent was evaporated to afford 3.22 g orange oil (yield: 52%), which crystallized when cool.

reactant | 2,5-diethoxyphenethylamine | 25 mmol, 5.23 g | C(C)OC1=C(CCN)C=C(C=C1)OCC | C12H19NO2
reactant | HCl | 3 ml | Cl | ClH
reactant | HNO3 | 13.5 ml | [N+](=O)(O)[O-] | HNO3
reactant | NaOH | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-Nitro-2,5-diethoxyphenethylamine | 3.22 g, yield: 52% | [N+](=O)([O-])C1=CC(=C(CCN)C=C1OCC)OCC | C12H18N2O4
